US05463128
Synthesis of 1,4-bis[4,4-bis(p-diethylaminophenyl)-1,3-butadienyl]benzene (Illustrative Compound 7)
In 100 ml of DMF were dissolved 2.5 g of 3,3-bis(p-diethylaminophenyl)acrolein and 1.5 g of p-xylene-α,α'-diylbis(diethyl phosphonate), and then 0.9 g of potassium tert-butoxide was added to the solution at room temperature. Thereafter, the reaction was carried out for 4 hours at room temperature with stirring and the reaction mixture was poured into 100 ml of ice-water with stirring. Then, precipitates thus deposited were collected by filtration, dissolved in benzene, and separated and purified by silica gel column chromatography (eluent: benzene). After distilling off benzene from the effluent, the residue was recrystallized from ethyl acetate to provide 1.74 g (yield 63.0%) of red crystals having a melting point of 201.5° C. to 204.5° C.

reactant | 3,3-bis(p-diethylaminophenyl)acrolein | 2.5 g | C(C)N(C1=CC=C(C=C1)C(=CC=O)C1=CC=C(C=C1)N(CC)CC)CC | C23H30N2O
reactant | potassium tert-butoxide | 0.9 g | CC(C)([O-])C.[K+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 1,4-bis[4,4-bis(p-diethylaminophenyl)-1,3-butadienyl]benzene | 1.74 g, yield 63.0% | C(C)N(C1=CC=C(C=C1)C(=CC=CC1=CC=C(C=C1)C=CC=C(C1=CC=C(C=C1)N(CC)CC)C1=CC=C(C=C1)N(CC)CC)C1=CC=C(C=C1)N(CC)CC)CC | C54H66N4
